### PR TITLE
[Merged by Bors] - chore(MeasureTheory/Function): golf some proofs

### PR DESCRIPTION
**Pull request by urkud**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Set/Image.lean [hunk 1]
```diff
@@ -150,6 +150,17 @@ theorem preimage_const (b : β) (s : Set β) [Decidable (b ∈ s)] :
...
+/-- If preimage of each singleton under `f : α → β` is either empty or the whole type,
+then `f` is a constant. -/
+lemma exists_eq_const_of_preimage_singleton [Nonempty β] {f : α → β}
+    (hf : ∀ b : β, f ⁻¹' {b} = ∅ ∨ f ⁻¹' {b} = univ) : ∃ b, f = const α b := by
+  rcases em (∃ b, f ⁻¹' {b} = univ) with ⟨b, hb⟩ | hf'
+  · exact ⟨b, funext fun x ↦ eq_univ_iff_forall.1 hb x⟩
+  · have : ∀ x b, f x ≠ b := fun x b ↦
+      eq_empty_iff_forall_not_mem.1 ((hf b).resolve_right fun h ↦ hf' ⟨b, h⟩) x
+    inhabit β
+    exact ⟨default, funext fun x ↦ absurd rfl (this x _)⟩
```
Comment (ADedecker) [inline Mathlib/Data/Set/Image.lean:162]:
```suggestion
    exact ⟨Classical.arbitrary β, funext fun x ↦ absurd rfl (this x _)⟩
```

**Review by ADedecker — APPROVED** [review]
Thanks!

bors d+

**Comment by urkud** [comment]
bors merge
